US07652049B2
A solution of [4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanol (71.5 mg, 0.209 mmol) and iodine (610 mg, 2.40 mmol) in phenyltrimethylsilane (877 μL) was heated at 110° C. in a sealed tube overnight. The reaction was cooled to room temperature, diluted with 1N HCl (10 mL) and extracted with EtOAc (3×20 mL). The combined extracts were washed with 10% Na2S2O3 (20 mL), dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) to afford 4-fluoro-2′-(iodomethyl)-5-isopropyl-4′-(trifluoromethyl)biphenyl-2-ol. Rf=0.65 (20% EtOAc in hexanes). 1H NMR (500 MHz, CDCl3) δ 7.81 (s, 1H), 7.60 (d, J=7.9 Hz, 1H), 7.34 (d, J=7.9 Hz, 1H), 7.10 (d, J=8.3 Hz, 1H), 6.69 (d, J=11.1 Hz, 1H), 4.82 (s, 1H), 4.41 (d, J=9.4 Hz, 1H), 4.23 (d, J=9.3 Hz, 1H), 3.27-3.19 (m, 1H), 1.27 (br s, 6H).

reactant | [4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanol | 0.209 mmol, 71.5 mg | FC1=CC(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CO)OC | C18H18F4O2
reactant | iodine | 2.40 mmol, 610 mg | II | I2
solvent | phenyltrimethylsilane | 877 μL | C1(=CC=CC=C1)[Si](C)(C)C | C9H14Si
solvent | HCl | 1N, 10 mL | Cl | ClH
product | 4-fluoro-2′-(iodomethyl)-5-isopropyl-4′-(trifluoromethyl)biphenyl-2-ol | FC=1C=C(C(=CC1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CI)O | C17H15F4IO
